US07307094B2
Zinc chloride (1.0 M in ether, 0.33 mL, 0.33 mmol) was added dropwise to a solution of 1-propynylmagnesium bromide in THF (0.5 M in THF, 0.66 mL, 0.33 mmol) at room temperature and the mixture was stirred under nitrogen for 10 min. N-(1-Azabicyclo[2.2.2]oct-3-yl)-2-(4-iodophenyl)benzoxazole-4-carboxamide (50 mg, 0.11 mmol) in DMF (2 mL) was added followed by bis(triphenylphosphine)dichloropalladium(II) (7.7 mg, 0.011 mmol). The resulting mixture was stirred under nitrogen at room temperature for 2 h, and then was quenched with saturated ammonium chloride, extracted with methylene chloride. The combined organic layers were washed with water and brine, dried (Na2SO4), filtered and concentrated. The crude material was purified by column chromatography (silica gel, 90:10:1 ethyl acetate/methanol/concentrated ammonium hydroxide) to afford N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(4-propyn-1-ylphenyl)benzoxazole-4-carboxamide (36 mg, 88%) as a light yellow solid: 1H NMR (300 MHz, CDCl3) δ 9.56 (d, J=7.0 Hz, 1H), 8.23 (dd, J=8.0, 1.0 Hz, 1H), 8.17 (d, J=8.4 Hz, 2H), 7.73 (dd, J=8.0, 1.0 Hz, 1H), 7.58 (d, J=8.4 Hz, 2H), 7.49 (t, J=8.0 Hz, 1H), 4.35-4.29 (m, 1H), 3.54 (ddd, J=14.0, 9.5, 2.0 Hz, 1H), 3.16-2.82 (m, 5H), 2.20-2.03 (m, 2H), 2.14 (s, 3H), 1.80-1.60 (m, 3H); MS (ESI+) m/z 386 (M+H); HPLC>99% (AUC), tR=13.24 min.

reactant | 1-propynylmagnesium bromide | C(#CC)[Mg]Br
reactant | THF | 0.33 mmol, 0.5 M, 0.66 mL | C1CCOC1 | C4H8O
reactant | N-(1-Azabicyclo[2.2.2]oct-3-yl)-2-(4-iodophenyl)benzoxazole-4-carboxamide | 0.11 mmol, 50 mg | N12CC(C(CC1)CC2)NC(=O)C=2C=CC=C1C2N=C(O1)C1=CC=C(C=C1)I | C21H20IN3O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | Zinc chloride | 0.33 mmol, 1.0 M, 0.33 mL | [Cl-].[Zn+2].[Cl-]
catalyst | bis(triphenylphosphine)dichloropalladium(II) | 0.011 mmol, 7.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(4-propyn-1-ylphenyl)benzoxazole-4-carboxamide | 36 mg, 88% | N12CC(C(CC1)CC2)NC(=O)C=2C=CC=C1C2N=C(O1)C1=CC=C(C=C1)C#CC | C24H23N3O2
